US04329347
7-(4-Phenylmercapto-butoxy)-carbostyril
Prepared analogous to Example 86 from 7-(4-phenyl-mercapto-butoxy)-3,4-dihydro-carbostyril and 2,3-dichloro-5,6-dicyano-benzoquinone.

reactant | 7-(4-phenyl-mercapto-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)C(CCCOC1=CC=C2CCC(NC2=C1)=O)S | C19H21NO2S
reactant | 2,3-dichloro-5,6-dicyano-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
product | 7-(4-Phenylmercapto-butoxy)-carbostyril | C1(=CC=CC=C1)SCCCCOC1=CC=C2C=CC(NC2=C1)=O | C19H19NO2S
